US07713993B2
Synthesis of (S)-2-phenylpropionic acid hydrazide monohydrochloride
4 N hydrogen chloride-ethyl acetate (2 mL) was added to a suspension of tert-butyl N′-((S)-2-phenylpropionyl)hydrazinecarboxylate (470 mg) in ethyl acetate (4 mL), and the reaction solution was stirred at room temperature overnight. Diethyl ether (6 mL) was added to the reaction solution, and the precipitated powder was collected by filtration. The resulting solid was dried under reduced pressure to obtain 280 mg of the title compound. The property values of the compound are as follows.

reactant | hydrogen chloride-ethyl acetate | 4 N, 2 mL | C(C)(=O)OCC.Cl
reactant | tert-butyl N′-((S)-2-phenylpropionyl)hydrazinecarboxylate | 470 mg | C1(=CC=CC=C1)[C@@H](C(=O)NNC(=O)OC(C)(C)C)C | C14H20N2O3
reactant | Diethyl ether | 6 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-phenylpropionic acid hydrazide monohydrochloride | 280 mg | Cl.C1(=CC=CC=C1)[C@@H](C(=O)NN)C | InChI=1S/C9H12N2O.ClH/c1-7(9(12)11-10)8-5-3-2-4-6-8;/h2-7H,10H2,1H3,(H,11,12);1H/t7-;/m0./s1
